US06562827B1
a) Ethyl 2-(Piperazin-1-yl)nicotinate
10.0 g of ethyl 2-chloronicotinate were reacted with 27.8 g of piperazine in 400 ml of ethanol analogously to Example 18a, 6.9 g (54%) of the product being obtained.

reactant | ethyl 2-chloronicotinate | 10.0 g | ClC1=C(C(=O)OCC)C=CC=N1 | C8H8ClNO2
reactant | piperazine | 27.8 g | N1CCNCC1 | C4H10N2
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | Ethyl 2-(Piperazin-1-yl)nicotinate | N1(CCNCC1)C1=C(C(=O)OCC)C=CC=N1 | C12H17N3O2
